### PR TITLE
Wolstenholme prime

### PR DESCRIPTION
**Pull request by seewoo5**
Definition(s) of Wolstenholme prime and statement of the conjecture that there are infinitely many of them.

### CODE REVIEW

File: FormalConjectures/Wikipedia/WolstenholmePrime.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+theorem wolstenholme_theorem (p : ℕ) (h : p > 3) (hp : Nat.Prime p) :
+    (2 * p - 1).choose (p - 1) ≡ 1 [MOD p ^ 3] := by
+  sorry
+
+
+/--
+A prime $p > 7$ is called a *Wolstenholme prime* if $\binom{2p-1}{p-1} \equiv 1 (\pmod{p^4})$.
+-/
+def WolstenholmePrime (p : ℕ) : Prop :=
+  (p > 7) ∧ Nat.Prime p ∧ (2 * p - 1).choose (p - 1) ≡ 1 [MOD p ^ 4]
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/WolstenholmePrime.lean]:
```suggestion
  p > 7 ∧ p.Prime ∧ (2 * p - 1).choose (p - 1) ≡ 1 [MOD p ^ 4]
```

File: FormalConjectures/Wikipedia/WolstenholmePrime.lean [hunk 2]
```diff
@@ -0,0 +1,68 @@
...
+@[category undergraduate, AMS 11]
+theorem wolstenholme_theorem (p : ℕ) (h : p > 3) (hp : Nat.Prime p) :
+    (2 * p - 1).choose (p - 1) ≡ 1 [MOD p ^ 3] := by
+  sorry
+
+
+/--
+A prime $p > 7$ is called a *Wolstenholme prime* if $\binom{2p-1}{p-1} \equiv 1 (\pmod{p^4})$.
+-/
+def WolstenholmePrime (p : ℕ) : Prop :=
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/WolstenholmePrime.lean]: I think the Mathlib convention for this might be
```suggestion
def IsWolstenholmePrime (p : ℕ) : Prop :=
```

File: FormalConjectures/Wikipedia/WolstenholmePrime.lean [hunk 3]
```diff
@@ -0,0 +1,68 @@
...
+  (p > 7) ∧ Nat.Prime p ∧ (2 * p - 1).choose (p - 1) ≡ 1 [MOD p ^ 4]
+
+/--
+Equivalently, a prime $p$ is a Wolstenholme prime if it divides the numerator of the Bernoulli number $B_{p-3}$.
+-/
+@[category test]
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/WolstenholmePrime.lean:46]: This seems like a useful statement, so let's put it as `API` (`test` is usually reserved for sanity checks that we don't expect to be useful anywhere else)
```suggestion
@[category API]
```

File: FormalConjectures/Wikipedia/WolstenholmePrime.lean [hunk 4]
```diff
@@ -0,0 +1,68 @@
...
+    (p > 7) ∧ Nat.Prime p ∧ ↑p ∣ (bernoulli' (p - 3)).num := by
+  sorry
+
+/--
+Another equivalent definition is that a prime $p$ is a Wolstenholme prime
+if it $p^3$ divides the numerator of the harmonic number $H_{p-1}$.
+-/
+@[category test]
+theorem wolstenholme_harmonic (p : ℕ) : WolstenholmePrime p ↔
+    (p > 7) ∧ Nat.Prime p ∧ ↑(p ^ 3) ∣ (harmonic (p - 1)).num := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/WolstenholmePrime.lean:68]: (untested)
```suggestion
    (p > 7) ∧ Nat.Prime p ∧ ↑p ^ 3 ∣ (harmonic (p - 1)).num := by
```

File: FormalConjectures/Wikipedia/WolstenholmePrime.lean [hunk 5]
```diff
@@ -0,0 +1,68 @@
...
+  (p > 7) ∧ Nat.Prime p ∧ (2 * p - 1).choose (p - 1) ≡ 1 [MOD p ^ 4]
+
+/--
+Equivalently, a prime $p$ is a Wolstenholme prime if it divides the numerator of the Bernoulli number $B_{p-3}$.
+-/
+@[category test]
+theorem wolstenholme_bernoulli (p : ℕ) : WolstenholmePrime p ↔
+    (p > 7) ∧ Nat.Prime p ∧ ↑p ∣ (bernoulli' (p - 3)).num := by
+  sorry
+
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/WolstenholmePrime.lean:61]: I think it would also be nice to add two test statements here, showing that `16843` and `2124679` are such primes (you can leave those sorried out)

File: FormalConjectures/Wikipedia/WolstenholmePrime.lean (hunk 4 above)
Comment (seewoo5) [reply FormalConjectures/Wikipedia/WolstenholmePrime.lean:68]: I checked this change doesn't work - `(harmonic (p - 1)).num` is integer and `↑(p ^ 3)` still remains as natural number.

File: FormalConjectures/Wikipedia/WolstenholmePrime.lean (hunk 5 above)
Comment (seewoo5) [reply FormalConjectures/Wikipedia/WolstenholmePrime.lean:61]: Added!

File: FormalConjectures/Wikipedia/WolstenholmePrime.lean [hunk 6]
```diff
@@ -0,0 +1,79 @@
...
+@[category test]
+theorem wolstenholme_prime_16483 : IsWolstenholmePrime 16843 := by
+  sorry
+
+@[category test]
+theorem wolstenholme_prime_2124679 : IsWolstenholmePrime 2124679 := by
+  sorry
+
+/--
+Equivalently, a prime $p$ is a Wolstenholme prime if it divides the numerator of the Bernoulli number $B_{p-3}$.
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/WolstenholmePrime.lean]:
```suggestion
Equivalently, a prime $p > 7$ is a Wolstenholme prime if it divides the numerator of the Bernoulli number $B_{p-3}$.
```

File: FormalConjectures/Wikipedia/WolstenholmePrime.lean [hunk 7]
```diff
@@ -0,0 +1,79 @@
...
+-/
+@[category API]
+theorem wolstenholme_bernoulli (p : ℕ) : IsWolstenholmePrime p ↔
+    (p > 7) ∧ Nat.Prime p ∧ ↑p ∣ (bernoulli' (p - 3)).num := by
+  sorry
+
+/--
+Another equivalent definition is that a prime $p$ is a Wolstenholme prime
```
Comment (callesonne) [inline FormalConjectures/Wikipedia/WolstenholmePrime.lean]:
```suggestion
Another equivalent definition is that a prime $p > 7$ is a Wolstenholme prime
```

**Review by callesonne — APPROVED** [review]
Thanks a lot! I only got two small nitpicks
